US08039455B2
b) 2-(Acetyl-allyl-amino)-6-chloro-isonicotinic acid ethyl ester
A mixture of 6.0 g (25 mmol) 2-acetylamino-6-chloro-isonicotinic acid ethyl ester, 10.36 g (75 mmol) potassium carbonate and 4.23 ml (50 mmol) allyl bromide in 25 ml DMF is stirred at 60° C. for 24 h. The cooled mixture is diluted with water and TBME. The organic phase is washed with water, dried over Na2SO4 and evaporated. The product is purified by chromatography on silica gel (hexane/EtOAc 9/1) to yield the title compound as a yellowish oil.

reactant | 2-acetylamino-6-chloro-isonicotinic acid ethyl ester | 25 mmol, 6.0 g | C(C)OC(C1=CC(=NC(=C1)Cl)NC(C)=O)=O | C10H11ClN2O3
reactant | potassium carbonate | 75 mmol, 10.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 50 mmol, 4.23 ml | C(C=C)Br | C3H5Br
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | TBME | CC(C)(C)OC | C5H12O
product | 2-(Acetyl-allyl-amino)-6-chloro-isonicotinic acid ethyl ester | C(C)OC(C1=CC(=NC(=C1)Cl)N(CC=C)C(C)=O)=O | C13H15ClN2O3
